US03933804
11.8 g (0.055 mol) of 1,4-dibromo-2-butene and 8.7 g (0.05 mol) of sodium salt of 3,4-methylendioxy-benzylalcohol are covered with a layer of 100 cc of 1,2-dimethoxyethane. The mixture is stirred at 20°-25° for 16 hours and at 50° for 15 minutes. The solvent is subsequently distilled off at reduced pressure, the residue is taken up in ether and the ether solution is extracted with water. The organic phase is dried with sodium sulphate and the ether is then distilled off and the residue is chromatographed on silica gel with hexane/ethyl acetate 9 : 1. The chromatographically uniform 5-[(4-bromo-2-butenyloxy)-methyl]-1,3-benzodioxol is obtained as slightly yellow oil.

reactant | 1,4-dibromo-2-butene | 0.055 mol, 11.8 g | BrCC=CCBr | C4H6Br2
reactant | sodium | 0.05 mol, 8.7 g | [Na] | Na
reactant | 3,4-methylendioxy-benzylalcohol | C1OC=2C=C(CO)C=CC2O1 | C8H8O3
solvent | 1,2-dimethoxyethane | 100 cc | COCCOC | C4H10O2
product | 5-[(4-bromo-2-butenyloxy)-methyl]-1,3-benzodioxol | BrCC=CCOCC1=CC2=C(OCO2)C=C1 | C12H13BrO3
